US08067446B2
3-Cyano-N-hydroxy-4-methoxybenzenecaboximidoyl chloride, ethyl propiolate and triethylamine were dissolved in a THF solution, followed by stirring at 40° C. to obtain ethyl 3-(3-cyano-4-methoxyphenyl)-5-isoxazolecarboxylate. AP: 295.

reactant | 3-Cyano-N-hydroxy-4-methoxybenzenecaboximidoyl chloride | C(#N)C=1C=C(C=CC1OC)C(=NO)Cl | C9H7ClN2O2
reactant | ethyl propiolate | C(C#C)(=O)OCC | C5H6O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
product | ethyl 3-(3-cyano-4-methoxyphenyl)-5-isoxazolecarboxylate | C(#N)C=1C=C(C=CC1OC)C1=NOC(=C1)C(=O)OCC | C14H12N2O4
